US09023865B2
(S)-tert-butyl (2-(methylthio)-1-phenylethyl)carbamate (380 mg, 1.421 mmol) was dissolved in HCl (1066 μl, 4.26 mmol) in dioxane and allowed to stir for 30 minutes at rt. The solvents were removed in vacuo to provide (S)-2-(methylthio)-1-phenylethanaminium chloride (275 mg, 1.350 mmol, 95% yield).

reactant | (S)-tert-butyl (2-(methylthio)-1-phenylethyl)carbamate | 1.421 mmol, 380 mg | CSC[C@H](C1=CC=CC=C1)NC(OC(C)(C)C)=O | C14H21NO2S
reactant | HCl | 4.26 mmol, 1066 μl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-2-(methylthio)-1-phenylethanaminium chloride | 1.350 mmol, 275 mg, 95% yield | [Cl-].CSC[C@@H]([NH3+])C1=CC=CC=C1 | InChI=1S/C9H13NS.ClH/c1-11-7-9(10)8-5-3-2-4-6-8;/h2-6,9H,7,10H2,1H3;1H/t9-;/m1./s1
